US09284323B2
Preparation of 3,4-dimethylnaphthalen-1-ol:
To a solution of 2,3-dimethylfuran (1.06 mL, 10 mmol) in anhydrous THF (10 mL) was added magnesium powder (0.292 g, 12 mmol). The reaction mixture was heated to reflux for 5 minutes. The reaction flask was placed in a room temperature oil bath and a solution of 1-bromo-2-fluorobenzene (1.08 mL, 10 mmol) in anhydrous THF (10 mL) was added. The reaction mixture was heated to 35° C. for 1 hour, heated to reflux over 1 hour, and stirred at reflux for 1 hour. The reaction mixture was cooled and poured into saturated ammonium chloride solution and diluted with water. The product was extracted with ethyl acetate (2×) and the combined organic layer dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 0 to 10% ethyl acetate/hexanes) to give the desired product.

reactant | 2,3-dimethylfuran | 10 mmol, 1.06 mL | CC=1OC=CC1C | C6H8O
reactant | magnesium | 12 mmol, 0.292 g | [Mg] | Mg
reactant | 1-bromo-2-fluorobenzene | 10 mmol, 1.08 mL | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3,4-dimethylnaphthalen-1-ol | CC=1C=C(C2=CC=CC=C2C1C)O | C12H12O
